US05703240
3,4-Difluorophenylboronic acid
Magnesium turnings (1.32 g) were stirred under nitrogen for 10 mins then anhydrous tetrahydrofuran (30 ml) followed by 1-bromo-3,4-difluorobenzene (7.0 g) were added over 5 mins. The mixture was maintained at reflux for 30 mins and then allowed to cool to room temperature. A solution of tri-isopropylborate (13.65 g) in dry tetrahydrofuran (80 ml) under nitrogen was cooled to -78° (dry ice-acetone) and the preformed Grignard solution was added over 10 mins. The mixture was stirred for 2 h and then allowed to warm to room temperature over 45 mins. The reaction was quenched with hydrochloric acid (4M, 80 ml) and stirred at room temperature overnight. The solution was extracted with ethyl acetate (3×100 ml) and the combined organic solutions extracted with aqueous sodium hydroxide (1M, 4×100 ml). The combined aqueous basic solutions were acidified to pH3 (4M hydrochloric acid), extracted with ethyl acetate (3×150 ml) and the combined organic fractions washed with acidified brine (200 ml) and dried (MgSO4). Removal of the solvent gave the title compound as a white solid (2.7 g). δ (d6 -DMSO+D2O) 7.42 (dt, 1H, J=10.5 and 7.5 Hz), 7.60-7.78 (m, 2H).

reactant | Magnesium | 1.32 g | [Mg] | Mg
reactant | 1-bromo-3,4-difluorobenzene | 7.0 g | BrC1=CC(=C(C=C1)F)F | C6H3BrF2
reactant | tri-isopropylborate | 13.65 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | dry ice acetone | C(=O)=O.CC(=O)C
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3,4-Difluorophenylboronic acid | 2.7 g | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
